2117-01-13 09:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dyspnea improved this AM.  Feels more rested overall.  Coughing with
   attempts to swallow.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2117-1-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-1-13**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-25**] Mild
   Pain location: right back and right chest wall
   Flowsheet Data as of  [**2117-1-13**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 79 (68 - 82) bpm
   BP: 125/47(67) {97/38(52) - 125/55(67)} mmHg
   RR: 20 (7 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     16 mL
                                                                    742 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                     16 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    350 mL
   Urine:
                                                                    125 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                  1,630 mL
   Balance:
                                                                 -1,739 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Right, diffuse, Bronchial:
   Right, No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   151 K/uL
   134 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.3 mEq/L
   36 mg/dL
   108 mEq/L
   142 mEq/L
   28.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2117-1-12**]  11:16 PM
                             [**2117-1-13**]  02:53 AM
                             [**2117-1-13**]  08:35 AM
   WBC
   8.5
   7.9
   Hct
   30.2
   24.0
   28.2
   Plt
   153
   151
   Cr
   1.2
   Glucose
   134
   Other labs: PT / PTT / INR:19.0/39.2/1.7, Albumin:2.8 g/dL, Ca++:7.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   78 yom, never smoker, myelofibrosis, Zencker's diverticulum, now with
   hypoxemia and new large right sided pleural effusion.
   HYPOTENSION -- Attributed to hypovolemia.  Resolved.  Monitor BP,
   maintain MAP > 60 mmHg.
   HYPOXEMIA -- attributed to atalecatic lung (due to large effusion), now
   reexpanded partially.
   INFILTRATES -- RLL > LLL.  Perhaps persistent atalectasis vs.
   pneumonia.  COncern for pneumonia, although some concern for
   malignancy.  At risk for reexpansion pulmomnary edema.  Monitor CXR.
   PLEURAL EFFUSION -- Exudative (Thoracentesis with 1200cc of
   serosanguinous fluid removed - pH 7.08, LDH >400, WBC 2550 with 89%
   PMN, Gram stain negative) --now drained with pigtail catheter in
   place.  [**Month (only) 60**] represent complex parapneumonic effusion, (pt at risk for
   aspiration pneumonia).  Doubt tuberculosis.  No evidence for empyema
   (low pH likely reflects complex effusion).  Other possible etiologies
   include malignancy, less likely pulmonary embolism with infact.  No
   evidence for hemothorax.  Plan continue empirical antimicrobials, and
   await additional studies, including cultures, cytology.  Maintain chest
   tube.  IP service to continue follow.
   ZENCKERS DIVERTICULUM -- places at risk for aspiration pneumonia.  If
   effusion attributable to aspiration pneumonia, would revisit possible
   surgical correction of Zencker
s diverticulum.
   MYELOFIBROSIS
 monitor peripheral WBc, plts.
   ANEMIA -- baseline.  Monitor.
   s/p RECENT FALL -- local care to wounds.  Pain management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-1-12**] 10:28 PM
   20 Gauge - [**2117-1-12**] 10:29 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-01-14 07:04:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:
   -I.P. to discuss VATS with Thoracics after 200cc instillation did
   nothing
   - No one here does endoscopic Zencker's repairs, if we wanted open,
   would be thoracics
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-1-13**] 03:45 PM
   Clindamycin - [**2117-1-14**] 01:46 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-1-13**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2117-1-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   still c/o right back pain, improved since admission; SOB improved when
   sitting upright; (-) n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: No(t) Numbness / tingling
   Flowsheet Data as of  [**2117-1-14**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 105 (71 - 108) bpm
   BP: 104/43(58) {89/33(47) - 138/53(71)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,530 mL
                                                                    120 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     50 mL
   Urine:
                                                                    775 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right base), unchanged
   Abdominal: Soft, Non-tender, Bowel sounds present, notable HSM
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   151 K/uL
   8.1 g/dL
   107 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   39 mg/dL
   106 mEq/L
   139 mEq/L
   25.7 %
   13.8 K/uL
        [image002.jpg]
                             [**2117-1-12**]  11:16 PM
                             [**2117-1-13**]  02:53 AM
                             [**2117-1-13**]  08:35 AM
                             [**2117-1-14**]  05:20 AM
   WBC
   8.5
   7.9
   13.8
   Hct
   30.2
   24.0
   28.2
   25.7
   Plt
   153
   151
   Cr
   1.2
   1.2
   Glucose
   134
   107
   Other labs: PT / PTT / INR:17.0/39.8/1.5, Albumin:2.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: Pleural fluid:
     NEGATIVE FOR MALIGNANT CELLS.
     Numerous neutrophils.
   Repeat CT chest-
   1. Decreased right pleural effusion, now moderate in size, status post
   right
   pleural pigtail catheter placement. Small left pleural effusion.
   2. Multifocal pneumonia involving nearly the entire right lung, and
   large
   portions of the left lower lobe.
   3. Unchanged hepatosplenomegaly.
   4. Unchanged appearance of probable Zenker's diverticulum.
 ANEMIA, CHRONIC
 PNEUMONIA, ASPIRATION
   Assessment and Plan
   78M with myelofibrosis admitted with acute hypoxemic respiratory
   failure.
   .
   #: Right Exudative Pleural Effusion, Acute Hypoxic Respiratory Failure:
   Pt with large right sided pleural effusion on presentation, now s/p
   thoracentesis with right pigtail catheter. Effusion appears to be
   exudative given low pH of 7.08 and high pleural LDH. Differential
   etiologies include parapneumonic, malignancy less likely although
   possible as pt is not up to date with cancer screening,  PE, TB (no
   known exposure), Connective Tissue Disease, esophageal rupture (no
   evidence), post-MI (CEs flat).
   - Right Pigtail to water seal, possible VATS, will d/w IP/thoracic,
   appreciate recs
   - Cont monitoring for signs of re-expansion pulmonary edema
   - f/u pleural fluid cultures -> (-) to date
   - obtain [**2117-1-2**] PA and lateral chest film
   - ask radiology to reconstruct CT torso from admission to eval for PE
   - Wean 02 as tolerated
   - Combivent Nebs
   - Follow ABG if hypoxia worsens
   - IS 10x per hour to enable re-expansion of atelectatic RML and RLL
   - Thoracics to discuss open Zenker
s divertic resection with pt today,
   appreciate input
   .
   #: Right Sided PNA: Evidence of RML and RLL collapse on CXR.
   Differential includes HAP, Aspiration. Pt recently hospitalized at
   [**Hospital 120**] Hospital. Pt currently afebrile and hemodynamically stable.
   Pt received doses of Vancomycin, Aztreonam and Levaquin while in the
   ED.
   - Cont Vanc for Staph Coverage
   - Given recent hospitalization will continue to cover for GNRs with
   Levaquin (covers 40-50% of psedomonas), and Clindamycin (to cover
   aspiration).
   - Sputum Cx (-)
   - antibiotics day [**2-3**]
   - Receive [**Hospital 120**] Hospital Records -> d/c summary; appears as though
   pt did not receive antibiotics at recent hospitalization
   .
   #: Anemia: Likely secondary to myelofibrosis.  Macrocytic.  Evidence of
   splenomegaly on exam potentially secondary to extramedullary
   hematopoeisis. Hct on presentation 28 prior to receiving 3L of NS while
   in the ED. Baseline Hct 21-26. Pt has been receiving transfusions since
   last spring of [**2114**].
   - Hct > 21
   - Make primary hematologist aware of pt in AM
   - Cont Iron and folate when taking PO
   - will check B12 level
   .
   #: Myelofibrosis: Diagnosed [**2-/2115**], requiring transfusions for anemia.
   Evidence of extramedullary hematopoesis with splenomegaly on CT
   Abdomen.
   - social work consult
   - will d/w PCP and hematologist in A.M.
   - PT consult
   .
   FEN: NS PRN/Replete PRN/Regular
   .
   PPX:
   -DVT ppx with pneumoboots, consider starting SC heparin in A.M.
   -Bowel regimen
   -Pain management with morphine IV PRN
   .
   ACCESS: PIV 18, 20
   .
   CODE STATUS: Full Code
   .
   EMERGENCY CONTACT:  [**Name (NI) 11428**]  [**Telephone/Fax (1) 11429**]
   .
   DISPOSITION: call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-1-12**] 10:28 PM
   20 Gauge - [**2117-1-12**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2117-01-14 10:58:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience right-sided pleurisy (posterior), although much
   improved today.  NOt requiring narcotics today.
   States to feel overall improved.
   Up in chair.
   Chest tube (pig-tail) not draining.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-1-13**] 03:45 PM
   Clindamycin - [**2117-1-14**] 01:46 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2117-1-13**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2117-1-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-1-14**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 82 (71 - 108) bpm
   BP: 118/47(66) {89/33(47) - 138/53(71)} mmHg
   RR: 17 (7 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,530 mL
                                                                    255 mL
   PO:
                                                                    940 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                    225 mL
   Urine:
                                                                    775 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Right, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   208 K/uL
   107 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   39 mg/dL
   106 mEq/L
   139 mEq/L
   25.7 %
   13.8 K/uL
        [image002.jpg]
                             [**2117-1-12**]  11:16 PM
                             [**2117-1-13**]  02:53 AM
                             [**2117-1-13**]  08:35 AM
                             [**2117-1-14**]  05:20 AM
   WBC
   8.5
   7.9
   13.8
   Hct
   30.2
   24.0
   28.2
   25.7
   Plt
   153
   151
   208
   Cr
   1.2
   1.2
   Glucose
   134
   107
   Other labs: PT / PTT / INR:17.0/39.8/1.5, Albumin:2.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   78 yom, never smoker, myelofibrosis, Zencker's diverticulum, now with
   hypoxemia and new large right sided pleural effusion.
   HYPOTENSION -- Attributed to hypovolemia.  Resolved.  Monitor BP,
   maintain MAP > 60 mmHg.
   HYPOXEMIA -- attributed to atalecatic lung (due to large effusion), now
   reexpanded partially.
   INFILTRATES -- RLL >> LLL.  Perhaps persistent atalectasis vs.
   pneumonia.  Concern for pneumonia, although some concern for
   malignancy.  At risk for reexpansion pulmomnary edema.  Monitor CXR.
   PLEURAL EFFUSION -- Exudative (Thoracentesis with 1200cc of
   serosanguinous fluid removed - pH 7.08, LDH >400, WBC 2550 with 89%
   PMN, Gram stain negative) --now drained with pigtail catheter in
   place.  [**Month (only) 60**] represent complex parapneumonic effusion, (pt at risk for
   aspiration pneumonia).  Doubt tuberculosis.  No evidence for empyema
   (low pH likely reflects complex effusion).  Other possible etiologies
   include malignancy, less likely pulmonary embolism with infact.  No
   evidence for hemothorax.  Plan continue empirical antimicrobials, and
   await additional studies, including cultures, cytology.  Maintain chest
   tube.  IP service to continue follow --> Thoracic Surgery to assess
   whether additional drainage of right chest required.
   ZENCKERS DIVERTICULUM -- places at risk for aspiration pneumonia.  If
   effusion attributable to aspiration pneumonia, would revisit possible
   surgical correction of Zencker
s diverticulum.  GI service and ENT
   service to evaluate.
   MYELOFIBROSIS
 monitor peripheral WBc, plts.
   ANEMIA -- baseline.  Monitor.
   s/p RECENT FALL -- local care to wounds.  Pain management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2117-1-12**] 10:28 PM
   20 Gauge - [**2117-1-12**] 10:29 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  [**Hospital Unit Name 44**]
   Total time spent: 45 minutes
   Patient is critically ill